US04792561
A suspension of 75 mg of 5% palladium on barium sulfate catalyst in 8 ml of pyridine was stirred under hydrogen for 15 minutes. A solution of 502 mg of 6-[3-(imidazol-1-yl)prop-1-yn-1-yl]-3,4-dihydrocarbostyril in 3 ml of pyridine was added and the mixture stirred under hydrogen until the theoretical volume of hydrogen had been absorbed. The reaction mixture was filtered and the solvent removed from the filtrate under reduced pressure to give a residue which was recrystallized from a mixture of methanol and ethyl acetate to give 6-[3-(imidazol-1-yl)prop-1-en-1-yl]-3,4-dihydrocarbostyril, m.p. 158°-160° C.

reactant | 6-[3-(imidazol-1-yl)prop-1-yn-1-yl]-3,4-dihydrocarbostyril | 502 mg | N1(C=NC=C1)CC#CC=1C=C2CCC(NC2=CC1)=O | C15H13N3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on barium sulfate | 75 mg | [Pd] | Pd
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 6-[3-(imidazol-1-yl)prop-1-en-1-yl]-3,4-dihydrocarbostyril | N1(C=NC=C1)CC=CC=1C=C2CCC(NC2=CC1)=O | C15H15N3O
